US05728500
4.66 g (0.018 mol) of the above prepared 5-[N-(4-tolyl)amino]acenaphthene was mixed with 4.99 g (0.022 mol) of iodo benzene, 0.13 g (0.002 mol) of copper powder, 2.76 g (0.02 mol) of anhydrous potassium carbonate and 5 ml of nitrobenzene, and the resultant mixture was stirred at 200° C. for 25 hours. The reaction was determined to be finished when disappearance of 5-[N-(4-tolyl)amino]acenaphthene was identified. 100 ml of toluene was added thereto to dissolve the reaction product, and the mixture was filtrated and concentrated. The concentrated material thus obtained was purified by column chromatography (carrier: silica gel, eluent: toluene/hexane=1/4) to obtain 5.06 g (yield: 83.8%, melting point: 147.0°-148.0° C.) of 5-[N-(4-tolyl)-N-phenylamino]acenaphthene.

reactant | 5-[N-(4-tolyl)amino]acenaphthene | C1(=CC=C(C=C1)NC1=CC=C2CCC=3C=CC=C1C32)C | C19H17N
reactant | iodo benzene | 0.022 mol, 4.99 g | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 0.02 mol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 5 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | 0.002 mol, 0.13 g | [Cu] | Cu
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[N-(4-tolyl)-N-phenylamino]acenaphthene | 5.06 g, yield: 83.8% | C1(=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C2CCC=3C=CC=C1C32)C | C25H21N
